datasets/RMG-dataset.csv
rxn,Ea
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[H:7][c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],18.2918
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7]([C:8]([H:21])([H:22])[H:23])[H:20])([H:18])[H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],148.574
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:6],0.87864
[N:0]([H:1])[H:2].[N:3][H:4]>>[N:0]([H:1])([H:2])[H:4].[N:3],101.215
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]=[C:21]([S:22][H:24])[H:23]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:23])([H:9])([H:10])[H:11].[S:20]=[C:21][S:22][H:24],125.478
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:20])[H:6].[S:11]([C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])[H:21])[H:19],28.0328
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[C:16](=[O:17])[H:18]>>[C-:16]#[O+:17].[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:8])[H:18])([H:5])([H:6])[H:7],0.0
[C:0]([N:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0](=[N:1][H:5])([H:3])[H:4].[H:2][H:6],-3.72376
[C:1][H:2].[N:3]#[N:4]>>[C:1]([H:2])=[N+:3]=[N-:4],10.9621
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:11])([H:9])[H:10],103.847
[C:0]([C:1]([O:2][H:11])([C:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([O:2][H:11])[H:10])([H:8])[H:9].[C:3]([O:4][H:13])(=[C:5]([O:6][H:7])[H:14])[H:12],238.94
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:21])([H:22])[H:23])([C:20]([H:25])([H:26])[H:27])[H:24])[H:8],10.9621
[C:0](#[N:1])[H:2].[C:3]([H:4])([H:5])[H:6]>>[C:0](=[N:1])([H:2])[C:3]([H:4])([H:5])[H:6],41.4216
[C:0](=[C:1]([C:2]([O:3][C:4]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[H:7])([H:5])([H:6])[H:10].[O:3]=[C:4]([H:11])[H:12],174.05
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25],52.3
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([S:11][H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([S:11][H:16])[H:15],82.4248
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0](=[C:1]=[N:2][H:6])([H:4])[H:5].[H:3][H:7],0.0
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17][C:18](=[S:19])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17](=[C:16]([H:20])[H:21])[C:18](=[S:19])[H:22],47.6976
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[O:7][H:8]>>[C:0](=[C:1]([O:2][H:6])[H:5])[H:4].[H:3][O:7][H:8],-3.59824
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])([H:4])[H:5],55.8564
